US04311697
To 4.0 g. (0.015 mole) of N-carbobenzyloxy-4-keto-L-proline are added 20 ml. of hydrogen bromide in acetic acid (30-32%). The mixture is frequently swirled over a period of eight minutes. At the end of this period (effervescence has stopped), the yellow-orange solution is layered over with 25° of ether, triturating the gummy product. The ether is discarded and the resulting tacky solid is triturated with fresh ether and finally with 50 ml. of acetonitrile to give 4-keto-L-proline, hydrobromide as a crystalline solid weighing 2.7 g. (85%), m.p. 153°-155° (dec.,), [α]D26 -49° (c, 1% in water).

reactant | N-carbobenzyloxy-4-keto-L-proline | 0.015 mole | C(=O)(OCC1=CC=CC=C1)N1[C@H](C(=O)O)CC(C1)=O | C13H13NO5
reactant | hydrogen bromide | Br | BrH
reactant | ether | CCOCC | C4H10O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-keto-L-proline, hydrobromide | Br.O=C1C[C@H](NC1)C(=O)O | InChI=1S/C5H7NO3.BrH/c7-3-1-4(5(8)9)6-2-3;/h4,6H,1-2H2,(H,8,9);1H/t4-;/m0./s1
